US05254718
2-Chloroethyl 2-hydroxy-3-methylbutyrate was prepared from 2-hydroxy-3-methylbutyric acid and excess 2-chloroethanol essentially by the method described in Step 1 of Example 1: b.p. 137° C./20 mm Hg; 1H NMR δ 0.90 (d, 3H, J=6.9 Hz), δ 1.04 (d, 3H, J=6.9 Hz), δ 2.12 (dqq, 1H, J=3.6, 6.9, 6.9 Hz), δ 2.76 (d, 1H, J=6.4 Hz), δ 3.72 (t, 2H, J=5.6 Hz), δ 4.10 (dd, 1H, J=3.6 Hz, 6.3 Hz), δ 4.36-4.53 (m, 2H); HRMS calcd for C6H9ClO3Tms (M--CH3) 237.0714, obsd 237.0677.

reactant | 2-hydroxy-3-methylbutyric acid | OC(C(=O)O)C(C)C | C5H10O3
reactant | 2-chloroethanol | ClCCO | C2H5ClO
product | 2-Chloroethyl 2-hydroxy-3-methylbutyrate | OC(C(=O)OCCCl)C(C)C | C7H13ClO3
